US04321374
N,N'-Bis[2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-1,3,5-triazine-6-yl]-p-xylylenediamine
2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine (15.4 g) and p-xylylenediamine (1.4 g) were dissolved in xylene (50 ml) and the solution was heated to reflux for 5 hours. The reaction mixture was poured into ice water. After saturation with potassium carbonate, the mixture was extracted with a mixture of benzene (300 ml) and chloroform (500 ml). The extract was dried over anhydrous potassium carbonate and benzene and chloroform were distilled off. The resulting residue was treated with silica gel column chromatography (eluent=ethyl acetate:triethylamine:ethanol=3:1:1) to yield crystals, which were recrystallized from cyclohexane to give the desired product with a melting point of 151°-156° C.

reactant | 2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine | 15.4 g | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)Cl)C1CC(NC(C1)(C)C)(C)C | C25H46ClN7O2
reactant | p-xylylenediamine | 1.4 g | C1(=CC=C(C=C1)CN)CN | C8H12N2
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-Bis[2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-1,3,5-triazine-6-yl]-p-xylylenediamine | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC1=CC=C(C=C1)CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC(O)C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C58H102N16O4
